US03984430
5-(4-tert-Butyloxycarbonylaminobutyl)-3-methyl-2-thiohydantoin
Using an analogous procedure to Example 1 Nε-t-butyloxycarbonyl-L-lysine methyl ester may be reacted with methyl isothiocyanate to give the title compound.

reactant | Nε-t-butyloxycarbonyl-L-lysine methyl ester | COC([C@@H](N)CCCCNC(=O)OC(C)(C)C)=O | C12H24N2O4
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | 5-(4-tert-Butyloxycarbonylaminobutyl)-3-methyl-2-thiohydantoin | C(C)(C)(C)OC(=O)NCCCCC1C(N(C(N1)=S)C)=O | C13H23N3O3S
